Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Penicillins / Cipro / Tetracycline
 
Attending: ___.
 
Chief Complaint:
R toe osteomyelitis
 
Major Surgical or Invasive Procedure:
___ Right ___ toe debridement
___ PICC placement

 
History of Present Illness:
___ woman with morbid obesity and poorly controlled DM2, 
developed right ___ toe ulcer on the medial aspect 2.5 weeks ago 
after wearing tight shoes and started on antibiotics on ___ with 
plan for 1 week of cipro & clinda but stopped cipro due itchy 
throat which resolved with Benadryl. 5 days prior, patient 
developed a new ulcer on top aspect of ___ toe which bursted 
open when dressing for initial medial ulcer was taken off. Both 
ulcers have been with purulent discharge. The pt and her family 
have been using alcohol and peroxide to clean the surrounding 
areas and using topical antibiotics and antifungals to ulcers. 
The patient saw Podiatry yesterday, and was started on Bactrim. 
Patient then stopped taking clinda. 
Wound cx grew staph & strep, sensitive to oxicillin but patient 
is allergic to pencillins. X-ray of R foot done yesterday with 
podiatry (Dr. ___ showed osteomyelitis & PCP was contacted. 
Podiatry thinks toe needs amputation. PCP then arranged direct 
admission.
  
On the floor, patient with ___ R toe pain. She manages her pain 
with Aleve and Tramadol. She has been constipated and with 
sensation of difficulty urinating. No f/c, n/v/d or abdominal 
pain. No SOB or CP. 
  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
or abdominal pain. No dysuria. Denies arthralgias or myalgias.  
Ten point review of systems is otherwise negative.
  

 
Past Medical History:
Morbid obesity
Diabetes mellitus, type 2- poorly controlled
Neuropathy
HTN
Iron deficiency anemia
Asthma  

Surgical hx: 
___ C-section
___ corn removal off of R foot

 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission:
Vitals: T: ___ BP: 129/76 P: 88 R: 18 O2: 99%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, obese, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
Ext: Warm, 2+ pulses, R ___ toe with welling, hyperpigmentation, 
on medial aspect- 1x2cm circular ulceration, on dorsal aspect of 
___ toe with well-defined circular 1.5x2cm ulcer, purulent base; 
___ toe with small ulceration at medial aspect. Tactile 
sensation intact, no pain elicited with passive flexion and 
extension of ___ toe
Skin: no rash
Neuro: A&Ox3, CNsII-XII grossly intact

On discharge:
Vitals: 98.6/98.5, 105/66 (105-128), 69, 18, 100% RA  
General: NAD, pleasant
HEENT: MMM, oropharynx clear  
Lungs: CTA-bl, no w/r/r  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: Soft, obese, non-tender, non-distended, +NABS, no 
rebound tenderness or guarding, no organomegaly  
Ext: Warm, 2+ pulses, right foot with dressing in place and not 
removed this am. drsg c/d/i. Tactile sensation intact.

 
Pertinent Results:
On admission:

___ 07:20PM BLOOD WBC-10.8 RBC-3.61* Hgb-10.0* Hct-30.3* 
MCV-84 MCH-27.8 MCHC-33.1 RDW-12.8 Plt ___
___ 07:20PM BLOOD Neuts-73.3* ___ Monos-4.0 Eos-2.9 
Baso-0.4
___ 07:20PM BLOOD ___ PTT-29.9 ___
___ 07:20PM BLOOD ESR-113*
___ 07:20PM BLOOD Glucose-92 UreaN-20 Creat-1.2* Na-137 
K-4.3 Cl-102 HCO3-23 AnGap-16
___ 07:20PM BLOOD Calcium-9.0 Phos-4.5 Mg-2.0
___ 07:20PM BLOOD CRP-106.1*

On discharge:

___ 06:15AM BLOOD WBC-7.5 RBC-3.56* Hgb-9.8* Hct-30.0* 
MCV-84 MCH-27.6 MCHC-32.8 RDW-12.6 Plt ___
___ 06:15AM BLOOD Glucose-132* UreaN-20 Creat-1.3* Na-138 
K-4.5 Cl-104 HCO3-26 AnGap-13
___ 06:15AM BLOOD Calcium-8.8 Phos-4.3 Mg-1.9

Studies:
___ X-ray foot
IMPRESSION:  Three views of the right foot show enough erosion 
of the medial cortex, distal aspect of the proximal phalanx of 
the right second toe, just proximal to the soft tissue ulcer to 
be possible osteomyelitis.  Finding is best seen on the AP view. 
 Degenerative changes in the joints of the toes are relatively 
mild.  The same location on the right third toe proximal phalanx 
shows some cortical thickening due to periostitis, but I see no 
soft tissue abnormality to suggest active adjacent infection. 

___ X-ray foot
There has been amputation of the distal head of the proximal 
phalanx and also amputation of the proximal head of the middle 
phalanx.  Margins appear sharp. 

___ Pathology s/p debridement pending

___ CXR
Right PICC tip is in the right atrium, should be withdrawn 2 cm 
for more 
standard position.  Cardiomediastinal contours are normal.  The 
lungs are 
clear.  There is no pneumothorax or pleural effusion. 

Micro:
 URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 10:30 am BLOOD CULTURE- PENDING

 
Brief Hospital Course:
___ woman with morbid obesity and poorly controlled DM2, with 
right ___ toe ulcer x 2 weeks ago found to have osteomyelitis.
  
# R toe osteomyelitis: Patient directly admitted from home after 
PCP notified of ___ finding on outpatient x-ray with podiatry. 
___ toe ___ likely from ulcer. Pt with oxacillin sensitive 
staph and strep on superifical wound cx with outpatient 
podiatry. Patient was continued on PO bactrim up until 
debridement, without fulfilling any SIRS criteria. Our inpatient 
podiatric surgery team performed debridement on ___ with some 
bone removed but cultures from removed specimens. Path of tissue 
specimen pending at time of discharge. Following procedure, 
vancomycin IV was started on ___. On ___, podiatry closed 
wound at bedside. Podiatry cleared patient for weight bearing as 
tolerated with surgical shoe. She was maintained on Tylenol and 
Tramadol for pain control. ID was consulted and recommended 6 
weeks of IV vancomycin via PICC (placed ___. Patient 
discharged with home infusion and ___ to help with wound care. 
Patient will follow-up with PCP and ___ clinic. She will need 
weekly labs which will be faxed to ___ clinic. Blood cultures 
negative to date at time of discharge.

# Urinary Hesitancy: Patient still able to make urine and 
without acute retention. No other signs/symptoms of infection. 
___ be secondary to tramadol. U/A clean and urine cx 
contaminated. Should consider outpatient uro/gyn followup if 
persists.
  
# DM2: On meformin as outpatient. As per pt, was told last A1c 
was 7% two weeks ago. Complicated by neuropathy and foot ulcers. 
Held metformin and maintained pt on HISS. Continued gabapentin.

#HTN: Continued losartan.  
  
Transitional issues:
-Patient is to have weekly labs including CRP/ESR and 
vancomycin, results will be faxed to ___
-Patient is to follow-up with ___, podiatry and PCP
-___ will continue IV vanc for 6 weeks, day 1= ___
-Patient has ___ for home infusion and wound care
-Blood cx not finalized at discharge, inpatient team will 
follow-up and contact outpatient providers/patient if positive.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. MetFORMIN (Glucophage) 850 mg PO BID 
3. Sulfameth/Trimethoprim DS 1 TAB PO BID 
4. Gabapentin 600 mg PO TID 
5. Vitamin D3 *NF* (cholecalciferol (vitamin D3)) 1,000 unit 
Oral Daily 
6. TraMADOL (Ultram) 100 mg PO BID:PRN pain 
7. Losartan Potassium 25 mg PO DAILY 
hold for SBP<100, HR<60 
8. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, sob 
11. Naproxen 500 mg PO Q8H:PRN pain 
12. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze, sob 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Gabapentin 600 mg PO TID 
6. Losartan Potassium 25 mg PO DAILY 
7. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
8. MetFORMIN (Glucophage) 850 mg PO BID 
9. Vitamin D3 *NF* (cholecalciferol (vitamin D3)) 1,000 unit 
Oral Daily 
10. TraMADOL (Ultram) 100 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 2 tablet(s) by mouth Q6H PRN Disp #*20 Tablet 
Refills:*0
11. Vancomycin 1000 mg IV Q 12H 
6 weeks, started on ___ 
RX *vancomycin 1 gram 1 gm IV every twelve (12) hours Disp #*84 
Vial Refills:*0
12. Acetaminophen 650 mg PO Q6H:PRN pain 
13. Outpatient Lab Work
___
ICD-9: 730.0
CBC, Chem 7, LFTs, ESR, CRP, vancomycin trough
Fax results to Dr ___ at ___
14. Outpatient Lab Work
___
ICD-9: 730.0
CBC, Chem 7, LFTs, ESR, CRP, vancomycin trough
Fax results to Dr ___ at ___
15. Outpatient Lab Work
___
ICD-9: 730.0
CBC, Chem 7, LFTs, ESR, CRP, vancomycin trough
Fax results to Dr ___ at ___
16. Outpatient Lab Work
___
ICD-9: 730.0
CBC, Chem 7, LFTs, ESR, CRP, vancomycin trough
Fax results to Dr ___ at ___
17. Outpatient Lab Work
___
ICD-9: 730.0
CBC, Chem 7, LFTs, ESR, CRP, vancomycin trough
Fax results to Dr ___ at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right ___ toe osteomyelitis
Diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
You were admitted to the hospital for a serious bone infection 
which required the podiatrists to clean out the infection in 
your toe. The infectious disease doctors saw ___ and recommended 
that you be on the antibiotic vancomycin for 6 weeks using the 
PICC line. You will have a visiting nurse who will help you with 
the administration of the antibiotic as well as assistance in 
wound care. You will need to follow-up with infectious disease 
in clinic. In the meantime, you will need to have weekly lab 
draws every ___ the results will then be faxed to the 
infectious disease clinic. 
In regards to pain management, please take acetaminophen/Tylenol 
for your pain. Please avoid Advil/naproxen or ibuprofen since 
these medications can damage your kidneys. Diabetes and high 
blood pressure have tendencies to harm your kidneys and the 
above medications would worsen the damage.
It is important that you follow-up with your podiatrist, primary 
care doctor and infectious disease doctors as ___ outpatient to 
get this bone infection under control. It is important that you 
try your best to work on controlling your diabetes to prevent 
worsening infection or new infection in another area. Please go 
to regular primary care doctor and podiatrist appointments to 
have frequent foot checks. 
 
Followup Instructions:
___